US07678798B2
1-[5-(Trifluoromethyl)-2-vinylphenyl]prop-2-en-1-ol
Triphenylmethylphosphonium bromide (1.71 g, 4.78 mmol) was dissolved in ether (20.00 mL). After cooling to 0° C., a 1.60 M solution of n-butyllithium in hexane (2.72 mL) was added rapidly by syringe and the resulting orange mixture was warmed to room temperature and stirred overnight. The stirring was stopped to allow the solids to settle and then the ylid was transferred via cannula to a solution of 5-(trifluoromethyl)-3-vinyl-1,3-dihydro-2-benzofuran-1-ol (1.00 g, 4.34 mmol) in ether (10.00 mL) while stirring at 0° C. Following the addition, the ice bath was removed and the mixture was heated to reflux overnight. The reaction was allowed to cool and then the solids filtered off and washed with a small amount of ether. Most of the solvents were evaporated and the crude product was loaded onto silica gel and eluted with hexane/EtOAc (10:1) to give the desired product (0.81 g, 82%), LC-MS [M+1]=229.2.

reactant | Triphenylmethylphosphonium bromide | 4.78 mmol, 1.71 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-(trifluoromethyl)-3-vinyl-1,3-dihydro-2-benzofuran-1-ol | 4.34 mmol, 1.00 g | FC(C1=CC2=C(C(OC2C=C)O)C=C1)(F)F | C11H9F3O2
solvent | ether | 20.00 mL | CCOCC | C4H10O
solvent | hexane | 2.72 mL | CCCCCC | C6H14
solvent | ether | 10.00 mL | CCOCC | C4H10O
product | 1-[5-(Trifluoromethyl)-2-vinylphenyl]prop-2-en-1-ol | 0.81 g, 82% | FC(C=1C=CC(=C(C1)C(C=C)O)C=C)(F)F | C12H11F3O
